US05336682
N-[(Dimethylamino)methylene]benzamide (2.0 g, 0.011 mol) and methyl hydrazine acetate hydrochloride salt (1.9 g, 0.011 mol) were warmed in acetic acid at 90° C. for 11/2 hours. The acetic acid was evaporated under reduced pressure and the residue neutralised with saturated aqueous sodium bicarbonate, then extracted into chloroform (2×100 ml) washed with water, dried and evaporated under reduced pressure to give methyl [5-phenyl-1,2,4-triazol-1-yl]acetate as a clear oil (2.3 g, 96%).

reactant | N-[(Dimethylamino)methylene]benzamide | 0.011 mol, 2.0 g | CN(C)C=NC(C1=CC=CC=C1)=O | C10H12N2O
reactant | methyl hydrazine acetate hydrochloride salt | 0.011 mol, 1.9 g | Cl.C(C)(=O)O.CNN
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | methyl [5-phenyl-1,2,4-triazol-1-yl]acetate | 2.3 g, 96% | C1(=CC=CC=C1)C1=NC=NN1CC(=O)OC | C11H11N3O2
